US08377923B2
A 1M aqueous sodium hydroxide solution (0.74 ml) and a 30% aqueous hydrogen peroxide solution (0.56 ml) were added to a solution of 3-chloro-4-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy}benzonitrile (200 mg) in ethanol (6 ml) at 0° C., followed by stirring at room temperature for 3 hours. The reaction solution was added to a mixture of water and chloroform, followed by separation operation, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was washed with diisopropylether, to obtain, as a colorless solid, 3-chloro-4-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy}benzamide (135 mg).

reactant | sodium hydroxide | 1M, 0.74 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 0.56 ml | OO | H2O2
reactant | 3-chloro-4-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy}benzonitrile | 200 mg | ClC=1C=C(C#N)C=CC1O[C@@H](C)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C19H14ClF3N4O
reactant | water | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-4-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy}benzamide | 135 mg | ClC=1C=C(C(=O)N)C=CC1O[C@@H](C)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C19H16ClF3N4O2
